US07601480B2
Synthesis of 4-Octyloxyphenylphenyl iodonium perfluorobutane sulfonate
4-octyloxyphenylphenyl iodonium chloride (15.34 g) was dissolved in water and THF in a beaker and a solution of potassium perfluorobutane sulfonate (11.67 g) in water and THF solution was added on stirring. After six hours, chloroform (200 ml) was added and stirred for 3 hours. The chloroform layer was washed several times with water, dried over anhydrous sodium sulfate, filtered, evaporated to oil which was added to hexane (500 ml), and a precipitate formed. The precipitate was filtered and re-dissolved in dichloromethane and precipitated in hexane, filtered, dried in the vacuum oven, yielding 22.0 g of product.

reactant | 4-octyloxyphenylphenyl iodonium chloride | 15.34 g | [Cl-].C(CCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1
reactant | potassium perfluorobutane sulfonate | 11.67 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Octyloxyphenylphenyl iodonium perfluorobutane sulfonate | 22.0 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(CCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1 | InChI=1S/C20H26IO.C4HF9O3S/c1-2-3-4-5-6-10-17-22-20-15-13-19(14-16-20)21-18-11-8-7-9-12-18;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h7-9,11-16H,2-6,10,17H2,1H3;(H,14,15,16)/q+1;/p-1
